US07423030B2
47.2. 4-Benzyloxymethyl-7-methoxy-2H-phthalazin-1-one
This compound is obtained according to the procedure described in 1.2. by reacting 2-(2-benzyloxyacetyl)-5-methoxybenzoic acid with hydrazine hydrate.

reactant | 2-(2-benzyloxyacetyl)-5-methoxybenzoic acid | C(C1=CC=CC=C1)OCC(=O)C1=C(C(=O)O)C=C(C=C1)OC | C17H16O5
reactant | hydrazine hydrate | O.NN
product | 4-Benzyloxymethyl-7-methoxy-2H-phthalazin-1-one | C(C1=CC=CC=C1)OCC1=NNC(C2=CC(=CC=C12)OC)=O | C17H16N2O3
